US06451794B1
(i) 4-[3-(4-Methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-2-yl]-phenol
Boron tribromide (1M solution in CH2Cl2, 2.1 eq) was added to 3-(4-methanesulfonyl-phenyl)-2-(4-methoxy-phenyl)-pyrazolo[1,5-b]pyridazine (3.58 g) in CH2Cl2 at −70°. The mixture was stirred for 10 min then warmed to 0° and stirred at 0° overnight. The reaction mixture was made alkaline with potassium carbonate then acidified with hydrochloric acid (2M), poured into water and extracted into CH2Cl2. The organic phase was dried, filtered and concentrated to give the title compound (1.87 g) as a yellow solid.

reactant | Boron tribromide | 1M, 2.1 eq | B(Br)(Br)Br | BBr3
reactant | 3-(4-methanesulfonyl-phenyl)-2-(4-methoxy-phenyl)-pyrazolo[1,5-b]pyridazine | 3.58 g | CS(=O)(=O)C1=CC=C(C=C1)C=1C(=NN2N=CC=CC21)C2=CC=C(C=C2)OC | C20H17N3O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[3-(4-Methanesulfonyl-phenyl)-pyrazolo[1,5-b]pyridazin-2-yl]-phenol | 1.87 g | CS(=O)(=O)C1=CC=C(C=C1)C=1C(=NN2N=CC=CC21)C2=CC=C(C=C2)O | C19H15N3O3S
